US04215065
A mixture of methyl tridecanoate isomers, 95% pure and containing 65% methyl n-tridecanoate, was subjected to partial hydrolysis under basic conditions. A 10 ml amount of the isomer mixture was placed with 10 ml water in a flask equipped with a reflux condenser, along with 0.15 gram sodium hydroxide. The mixture was heated to reflux with stirring. After forty minutes, a sample was taken from the organic phase and a sodium tridecanoate white crystalline solid formed therein upon cooling. The sample was acidified with sulfuric acid and solids were separated by filtration and washed three times with water. By gas chromatographic analysis it was determined that the material was 64.9% hydrolyzed, and that 97.5% of the tridecanoic acid was n-tridecanoic acids, representing a substantial enrichment from the original 65%.

reactant | methyl tridecanoate | C(CCCCCCCCCCCC)(=O)OC | C14H28O2
reactant | sodium hydroxide | 0.15 gram | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | sodium tridecanoate | C(CCCCCCCCCCCC)(=O)[O-].[Na+] | InChI=1S/C13H26O2.Na/c1-2-3-4-5-6-7-8-9-10-11-12-13(14)15;/h2-12H2,1H3,(H,14,15);/q;+1/p-1
